US05444067
5-butyl-2-(N-t-butylaminosulfonyl)thiophene
To a solution of 2-(N-t-butylaminosulfonyl)thiophene (2.01 g, 9.18 mmol) in anhydrous THF (17 mL) cooled to -78° C. under N2 was added 2.5 M n-BuLi (10 mL, 2.7 equiv). After stirring at -78° C. for 30 min the bath temperature was raised to -40° C. and the mixture was stirred for an additional 2 hrs. To this mixure was added n-butyliodide (2.0 mL, 2 equiv) and the reaction was allowed to warm to room temperature. After stirring overnight the darkened reaction mixture was quenched with NH4Cl soln and extracted with EtOAc. The organic was washed with brine and dried over anhydrous MgSO4 and concentrated in vacuo. The titled compound was purified by flash chromatography eluting with hex/EtOAc (15:1 to 7:1). Rf=0.32 (6:1 Hex/EtOAc).

reactant | 2-(N-t-butylaminosulfonyl)thiophene | 9.18 mmol, 2.01 g | C(C)(C)(C)NS(=O)(=O)C=1SC=CC1 | C8H13NO2S2
reactant | n-BuLi | 2.5 M, 10 mL, 2.7 equiv | [Li]CCCC
reactant | n-butyliodide | 2.0 mL, 2 equiv | C(CCC)I | C4H9I
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | 5-butyl-2-(N-t-butylaminosulfonyl)thiophene | C(CCC)C1=CC=C(S1)S(=O)(=O)NC(C)(C)C | C12H21NO2S2
